US06133257
N-[3,5-Dimethyl-4-(2-morpholinoethoxy)phenyl]-9-methoxy-6,6-dimethylbenzo[h]-5,6-dihydroquinazoline-2-amine
The 3,4-dihydro-4,4-dimethyl-2-dimethylaminomethylene-7-methoxy-1 (2H) naphthalenone was prepared from 4,4-dimethyl-7-methoxy-1-tetralone [2.3 g; H. Hart et al J. Chem. Soc. 85, 3260, (1963)] and N,N-dimethylformamide diethylacetal (6 ml) in a method analogous to that used in Example 1, to give the desired product as a yellow solid (2.26 g) m.p. 108-110°. MS (ES+) 260 (MH+, 100%).

reactant | 4,4-dimethyl-7-methoxy-1-tetralone | 2.3 g | CC1(CCC(C2=CC(=CC=C12)OC)=O)C | C13H16O2
reactant | N,N-dimethylformamide diethylacetal | 6 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3,4-dihydro-4,4-dimethyl-2-dimethylaminomethylene-7-methoxy-1 (2H) naphthalenone | CC1(CC(C(C2=CC(=CC=C12)OC)=O)=CN(C)C)C | C16H21NO2
